US08058045B2
A solution of 5-(6-chloropyrimidin-4-ylamino)pyrazine-2-carbonitrile (20 mg, 0.086 mmol), 4-(aminomethyl)tetrahydropyran (18 mg, 0.17 mmol), and triethylamine (0.02 mL, 0.13 mmol) in MeCN (0.2 mL) was heated to 145° C. for 30 minutes by microwave irradiation. The mixture was cooled and solvent was removed by evaporation. The crude material was redissolved in a mixture of dichloromethane (89%), MeOH (10%), 0.88 s.g. NH3 (1%) and adsorbed onto a solvent-conditioned Trikonex silica chromatography column. Elution with the same solvent mixture gave 5-(6-((tetrahydro-2H-pyran-4-yl)methylamino)pyrimidin-4-ylamino)pyrazine-2-carbonitrile as a yellow powder (11 mg, 41%).

reactant | 5-(6-chloropyrimidin-4-ylamino)pyrazine-2-carbonitrile | 0.086 mmol, 20 mg | ClC1=CC(=NC=N1)NC=1N=CC(=NC1)C#N | C9H5ClN6
reactant | 4-(aminomethyl)tetrahydropyran | 0.17 mmol, 18 mg | NCC1CCOCC1 | C6H13NO
reactant | triethylamine | 0.13 mmol, 0.02 mL | C(C)N(CC)CC | C6H15N
solvent | MeCN | 0.2 mL | CC#N | C2H3N
product | 5-(6-((tetrahydro-2H-pyran-4-yl)methylamino)pyrimidin-4-ylamino)pyrazine-2-carbonitrile | 11 mg, 41% | O1CCC(CC1)CNC1=CC(=NC=N1)NC=1N=CC(=NC1)C#N | C15H17N7O
